USRE028973
3-{2-[3-(3,4,5-trimethoxybenzoyloxy)pyrrolidinyl] ethyl}indole
A mixture of 3 g. (0.013 mole) of 3-[2-(3-hydroxypyrrolidinyl)ethyl]indole, 3 g. (0.013 mole) of 3,4,5-trimethoxybenzoyl chloride and 5 g. (0.05 mole) of sodium carbonate in 40 ml. of chloroform was stirred under anhydrous conditions for 24 hours. Then 0.3 g. of additional acid chloride was added and the mixture stirred another 24 hours. The mixture was treated with 50 ml. of water, stirred for 1 hour and the chloroform layer separated and dried over magnesium sulfate. Evaporation of the chloroform on a rotating evaporator gave an oil which would not crystallize.

reactant | 3-[2-(3-hydroxypyrrolidinyl)ethyl]indole | 0.013 mole | OC1CN(CC1)CCC1=CNC2=CC=CC=C12 | C14H18N2O
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.013 mole | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | sodium carbonate | 0.05 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-{2-[3-(3,4,5-trimethoxybenzoyloxy)pyrrolidinyl] ethyl}indole | COC=1C=C(C(=O)OC2CN(CC2)CCC2=CNC3=CC=CC=C23)C=C(C1OC)OC | C24H28N2O5
